US05356906
A mixture of 5.90 g (17.5 mmol) of 1-(2-phenylethyl)-4-carboethoxypyridinium bromide, 0.60 g of platinum (IV) oxide and 100 mL of methanol was hydrogenated at 50 p.s.i. and room temperature for 1.5 hours. The reaction mixture was filtered, concentrated and the residue dissolved in water. The aqueous solution was made alkaline to pH 9-10 with aqueous potassium carbonate and extracted with ethyl acetate. The organic extracts were washed with saturated sodium bicarbonate solution, saturated sodium chloride solution, dried and evaporated to afford 4.11 g of 1-(2-phenylethyl)-4-carboethoxypiperidine as a yellow oil. NMR (CDCl3) δ7.16-7.32 (m, 5H); 4.08-4.19 (q, 2H); 2.91-3.02 (m, 2H); 2.77-2.88 (m, 2H); 2.53-2.65 (m, 2H); 2.23-2.35 (m, 1H); 2.03-2.15 (m, 2H); 1.87-1.98 (m, 2H); 1.72-1.88 (m, 4H); 1.20-1.30 (t, 3H).

reactant | 1-(2-phenylethyl)-4-carboethoxypyridinium bromide | 17.5 mmol, 5.90 g | [Br-].C1(=CC=CC=C1)CC[N+]1=CC=C(C=C1)C(=O)OCC
catalyst | platinum (IV) oxide | 0.60 g | [Pt](=O)=O
solvent | methanol | 100 mL | CO | CH4O
product | 1-(2-phenylethyl)-4-carboethoxypiperidine | 4.11 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)OCC | C16H23NO2
